US08492582B2
Under ice-cooling, pyridine (0.30 mL) and acetic anhydride (6.7 μL) were sequentially added to a methylene chloride (1 mL) suspension of 2-(2-hydroxy-5-(piperidin-4-yloxy)benzamido)-4-phenylbenzoic acid hydrochloride (0.030 g), followed by stirring at room temperature for 1 hour. Pyridine (0.20 mL) and acetic anhydride (5.4 μL) were sequentially added to the reaction mixture, followed by stirring at room temperature for 1 hour and 30 minutes. The solvent was evaporated under reduced pressure, and methanol (0.5 mL) and a 2 mol/L aqueous solution of sodium hydroxide (0.19 mL) were added to the residue, followed by stirring at room temperature for 1 hour. To the reaction mixture, 1 mol/L hydrochloric acid (5 mL) and ethyl acetate were added. The organic layer was separated, washed with 1 mol/L hydrochloric acid, water, and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Dioxane (0.5 mL), methanol (0.5 mL), and a 2 mol/L aqueous solution of sodium hydroxide (0.32 mL) were added to the obtained residue, followed by stirring at 70° C. for 30 minutes. After cooling the reaction mixture to room temperature, the solvent was evaporated under reduced pressure, and water was added to the obtained residue. After adjusting the pH to 3 with 6 mol/L hydrochloric acid, the solid substance was collected by filtration to obtain 0.022 g of 2-(5-(1-acetylpiperidin-4-yloxy)-2-hydroxybenzamido)-4-phenylbenzoic acid as a white solid.

reactant | acetic anhydride | 6.7 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
reactant | 2-(2-hydroxy-5-(piperidin-4-yloxy)benzamido)-4-phenylbenzoic acid hydrochloride | 0.030 g | Cl.OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1CCNCC1
reactant | acetic anhydride | 5.4 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | Pyridine | 0.20 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.30 mL | N1=CC=CC=C1 | C5H5N
product | 2-(5-(1-acetylpiperidin-4-yloxy)-2-hydroxybenzamido)-4-phenylbenzoic acid | 0.022 g | C(C)(=O)N1CCC(CC1)OC=1C=CC(=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C1)O | C27H26N2O6
